US06548493B1
Tert-butyl (6aS,10aR)-2-(2-fluoro-4-methoxyphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate (116 mg, 55%) was prepared by the method of Example 89 step C from tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate (189 mg, 0.5 mmol) and 2-fluoro-4-methoxyphenylboronic acid (158 mg, 1.0 mmol).

reactant | tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | 0.5 mmol, 189 mg | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2
reactant | 2-fluoro-4-methoxyphenylboronic acid | 1.0 mmol, 158 mg | FC1=C(C=CC(=C1)OC)B(O)O | C7H8BFO3
product | Tert-butyl (6aS,10aR)-2-(2-fluoro-4-methoxyphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | 116 mg, 55% | FC1=C(C=CC(=C1)OC)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C25H29FN2O3
